US08877782B2
5-Methyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide
To a suspension of 5-bromo-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide (200 mg, 0.42 mmol) in 1,2-dimethoxyethane (1 mL) was added trimethylboroxine (88 μL, 0.64 mmol), aqueous sodium carbonate (1 M, 0.64 mL, 0.64 mmol) and tetrakis(triphenylphosphine)palladium(0) (49 mg, 0.04 mmol). The reaction mixture was then irradiated in the microwave for 20 min at 140° C. under an argon atmosphere. It was diluted with ethyl acetate (10 mL) and washed with water (10 mL) and brine (10 mL). The aqueous layers were extracted with ethyl acetate (10 mL) and the combined organic layers were dried over sodium sulfate. Trituration from tert-butylmethylether afforded the title compound (87 mg, 50%) which was obtained as a white solid. MS: m/e=408.4 [MA-1]+

reactant | 5-bromo-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide | 0.42 mmol, 200 mg | BrC=1C(=NC=C(C(=O)NC2CCOCC2)C1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C22H22BrN3O4
reactant | trimethylboroxine | 0.64 mmol, 88 μL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | sodium carbonate | 0.64 mmol, 1 M, 0.64 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 1 mL | COCCOC | C4H10O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.04 mmol, 49 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Methyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide | 87 mg, 50% | CC=1C(=NC=C(C(=O)NC2CCOCC2)C1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C23H25N3O4
